US07868200B2
p-Menthane-3-carboxylic acid
Magnesium (37 g, 50 mesh), butyl diglyme (600 g), and iodine (0.1 g) were added under nitrogen to a 1-liter flask equipped with agitation, addition funnel, off-set adaptor for thermometer, gas addition tube, and condenser. The mixture was stirred for 30 min. at 90° C., and then 1,2,-dibromo ethane (2 cc) was slowly added. p-Menth-3-yl chloride (200 g) was then added at a rate of 50 g/hr (0.32 mole/hr). After approximately ½ of the p-menth-3-yl chloride was added, carbon dioxide was concurrently added by bubbling the carbon dioxide into the mixture at a rate of 15.91 g/hr (0.36 mole/hr), and at a temperature of 90° C. Addition of the carbon dioxide was continued at a temperature of 90° C. until 30 min. after all of the p-menth-3-yl chloride was added. After carbonation was complete, the resultant mixture was hydrolyzed with aqueous hydrochloric acid (1:1 hydrochloric acid/water), and the resultant oil layer was neutralized with trisodium phosphate. VPC analysis showed a yield of 93.18% by weight of p-menthane-3-carboxylic acid.

reactant | Magnesium | 37 g | [Mg] | Mg
reactant | butyl diglyme | 600 g | C(CCC)COCCOCCOC | C10H22O3
reactant | iodine | 0.1 g | II | I2
reactant | 1,2,-dibromo ethane | 2 cc | BrCCBr | C2H4Br2
reactant | p-Menth-3-yl chloride | 200 g | C1(CC(C(CC1)C(C)C)Cl)C | C10H19Cl
reactant | carbon dioxide | C(=O)=O | CO2
product | p-Menthane-3-carboxylic acid | C1(CC(C(CC1)C(C)C)C(=O)O)C | C11H20O2
